US09447054B2
80 μmol of 2,4-diaminophenol.2HCl and 80 μmol of naphthalene-2-carboxylic acid were dissolved in 100 mg of PPA, and then, the mixed solution was stirred at a temperature of 180° C. for 3 to 4 hours. After completion of the reaction, the reaction solution was cooled, neutralized with 10% NaOH, and filtered by using distilled water for recrystallization in a slow manner, thereby obtaining 15.6 mg of 2-(naphthalene-2-yl)benzo[d]oxazole-5-amine (Derivative #3) (yield: 75%).

reactant | 2,4-diaminophenol.2HCl | 80 μmol | C1=CC(=C(C=C1N)N)O.Cl.Cl
reactant | naphthalene-2-carboxylic acid | 80 μmol | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | NaOH | [OH-].[Na+]
product | 2-(naphthalene-2-yl)benzo[d]oxazole-5-amine | 15.6 mg, yield: 75% | C1=C(C=CC2=CC=CC=C12)C=1OC2=C(N1)C=C(C=C2)N | C17H12N2O
